US04065464
A solution of gramine methiodide (31.6 g., 0.1 mole) in 250 ml. of ethanol is treated dropwise over a period of 30 minutes with a solution of trichloroacetamidine (16.1 g., 0.1 mole) in 50 ml. of ethanol. The solution is refluxed for 15 minutes, cooled and the solvent removed in vacuo to give a crystalline residue. The residue is partitioned between 150 ml. portions of chloroform and water and the water layer back-extracted with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo affording N-(3-indolylmethyl)-trichloroacetamidine m.p. 135.5 to 138.5 after recrystallization from benzene/hexane.

reactant | gramine methiodide | 0.1 mole, 31.6 g | C[N+](C)(C)CC1=CNC2=CC=CC=C21.[I-]
reactant | trichloroacetamidine | 0.1 mole, 16.1 g | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
solvent | ethanol | C(C)O | C2H6O
product | N-(3-indolylmethyl)-trichloroacetamidine | N1C=C(C2=CC=CC=C12)CNC(C(Cl)(Cl)Cl)=N | C11H10Cl3N3
